US06071925
8-(5-Chloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride
The title compound, m.p.>250° C. and MS: m/e=396.4, 398.4 (M+H+) was prepared in accordance with general method of example 1 from 5-chloro-2-tetralone and 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one.

reactant | 5-chloro-2-tetralone | ClC1=C2CCC(CC2=CC=C1)=O | C10H9ClO
reactant | 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | 8-(5-Chloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC1=C2CCC(CC2=CC=C1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C23H26ClN3O.ClH/c24-21-8-4-5-17-15-19(9-10-20(17)21)26-13-11-23(12-14-26)22(28)25-16-27(23)18-6-2-1-3-7-18;/h1-8,19H,9-16H2,(H,25,28);1H
